US07700589B2
62c) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-2-(4-azetidin-1-yl-piperidin-1-yl)-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide
Prepared analogously to Example 34 from (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 4-azetidin-1-yl-piperidine.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | 4-azetidin-1-yl-piperidine | N1(CCC1)C1CCNCC1 | C8H16N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-2-(4-azetidin-1-yl-piperidin-1-yl)-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide | N1(CCC1)C1CCN(CC1)C([C@@H](CC1=CC(=C(C=C1)CC)CC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O | C36H50N6O3
